* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1607.asc
* Generated by LTspice 24.1.9 for Windows.
V3 S1A 0 1
V4 S2A 0 2
V5 S3A 0 3
V6 S4A 0 4
V7 S1B 0 0
V8 S2B 0 5
V12 N001 0 5
V13 N002 0 -5
V14 EN 0 PULSE(0 5 0 10n 10n 10u 20u)
R1 DA 0 301
C1 N001 0 0.1µ
C2 N002 0 0.1µ
C3 DA 0 36p
R2 DB 0 301
C4 DB 0 36p
V1 S5A 0 1
V2 S6A 0 2
V9 S7A 0 3
V10 S8A 0 4
V11 S3B 0 1
V15 S4B 0 2
V16 S5B 0 3
V17 S6B 0 4
V18 A2 0 0
V20 S7B 0 1
V21 S8B 0 2
V22 A0 0 3
V23 A1 0 4
X§U1 N001 DB MP_01 S8B S7B S6B S5B S4B S3B S2B S1B 0 MP_02 MP_03 A2 A1 A0 EN S1A S2A S3A S4A S5A S6A S7A S8A N002 DA ADG1607
.tran 100u
* Notes:\nSwitch shown for a logic 0 input\nCharge injection not included
.lib ADG1607.sub
.backanno
.end
