* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1633.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 8
V2 -V 0 -8
V3 D1 0 sine(0 5 1K)
V4 IN1 0 pulse(0 3.3 0 1u 1u 5m 10m)
R1 S1B 0 1K
R2 S1A 0 1K
X§U1 +V S1A D1 S1B MP_01 MP_02 MP_03 MP_04 MP_05 MP_06 MP_07 MP_08 -V NC_09 IN1 0 ADG1633
.tran 30m
.lib ADG1633.sub
.backanno
.end
