* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1634.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
V4 vIN 0 PULSE(0 3 0 10n 10n 10u 20u)
V5 vSA 0 2
V6 vSB 0 0
R1 vD 0 301
C1 vD 0 36p
X§U1 vIN vSA vD vSB +V 0 0 -V ADG1634
.tran 120u
* Notes:\nSwitch shown for a logic 0 input\nOnly one channel is modeled\nQinj is not modeled \nModeled at ±5V specification\n_EN is not available on the TSSOP package
.lib ADG1634.sub
.backanno
.end
