* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG2412.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 vIN vD vS -V 0 +V ADG2412
V1 +V 0 15
V2 -V 0 -15
V3 vS 0 10
V4 vIN 0 pulse(0 5 0 20n 20n 10u 20u)
R1 vD 0 301
C1 vD 0 36p
.tran 75u
* Note:\nSwitch shown for a logic 0 input\nOnly one channel included\nCrosstalk parameter not included
.lib ADG2412.sub
.backanno
.end
