* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG2436.asc
* Generated by LTspice 24.1.9 for Windows.
V1 vSA 0 3
V2 vIN 0 PULSE(0 3.3 0 20n 20n 10u 20u)
R1 vD 0 301
C1 vD 0 36p
V4 V+ 0 15
X§U1 vIN vSA vD 0 V+ 0 V- vEN ADG2436
V5 V- 0 -15
V3 vEN 0 5
.tran 100u
* Notes:\nSwitch shown for a logic 0 input\nParameter performance at ±15V supply\nCharge injection is not included\nPin capacitance is not included\nOff isolation and Crosstalk specified at 100KHz only
.lib ADG2436.sub
.backanno
.end
