* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG419.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V4 IN 0 pulse(0 3.3 0 1u 1u 5m 10m)
R1 S1 0 1K
R2 S2 0 1K
V5 D 0 SINE(0 10 2k)
X§U1 IN S1 D S2 +V -V 0 ADG419
.tran 30m
.lib ADG419.sub
.backanno
.end
