* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG5204.asc
* Generated by LTspice 24.1.9 for Windows.
V4 vS1 0 4
V5 vS2 0 -4
V6 vS3 0 8
V7 vS4 0 -8
V8 vA0 0 0
V9 vA1 0 0
V1 N001 0 15
V2 N002 0 -15
V3 vEN 0 PULSE(0 5 0 10n 10n 10u 20u)
R1 vD 0 301
C1 N001 0 0.1µ
C2 N002 0 0.1µ
C3 vD 0 36p
X§U1 N001 vA0 vA1 vEN N002 vS1 vS2 vS3 vS4 vD 0 ADG5204
.tran 100u
.lib ADG5204.sub
.backanno
.end
