* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG5419.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V4 N004 0 PULSE(0 5 0 20n 20n 10u 20u)
R2 N002 0 300
V5 N001 0 10
V3 N005 0 5
V6 N003 0 0
C1 0 N002 35p
X§U1 N004 N001 N002 N003 N005 -V 0 +V ADG5419
.tran 0.0001
.lib ADG5419.sub
.backanno
.end
