* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG5436.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V4 N004 0 pulse(0 3.3 0 1u 1u 5m 10m)
R1 N001 0 1K
R2 N003 0 1K
V5 N002 0 SINE(0 10 2k)
V3 N005 0 5
X§U1 N004 N001 N002 N003 N005 -V 0 +V ADG5436
.tran 30m
.lib ADG5436.sub
.backanno
.end
