* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG601.asc
* Generated by LTspice 24.1.9 for Windows.
Vs N001 0 3.3
V3 N003 0 PULSE(0 3 0 20n 20n 10u 20u)
R1 N002 0 300
C1 N002 0 35p
V2 +V 0 5
V1 -V 0 -5
X§U1 N003 N002 N001 -V 0 +V ADG601
.tran 100u
.lib ADG601.sub
.backanno
.end
