* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG602.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
Vs1 S 0 3.3
V3 IN 0 PULSE(0 3 0 20n 20n 10u 20u)
R1 D 0 1k
C1 D 0 33p
X§U1 IN D S -V 0 +V ADG602
.tran 100u
.lib ADG602.sub
.backanno
.end
