* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG611.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
V3 S 0 SINE(0 5 1k)
V4 IN 0 pulse(0 3.3 0 1u 1u 5m 10m)
R1 D 0 1K
X§U1 IN D S -V 0 +V ADG611
.tran 30m
.lib ADG611.sub
.backanno
.end
