* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG619.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N003 0 PULSE( 0 3 25u 1n 1n 20u)
R1 N002 0 301
C1 N002 0 36p
V4 -V 0 -5
V5 +V 0 5
V2 N001 0 3.3
X§U1 N003 N001 N002 0 +V -V 0 ADG619
.tran 75u
.lib ADG619.sub
.backanno
.end
