* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG633.asc
* Generated by LTspice 24.1.9 for Windows.
V1 SA 0 3
V2 SB 0 0
V3 IN 0 PULSE(0 3 0 20n 20n 10u 20u)
R1 D 0 301
C1 D 0 36p
V4 -V 0 -5
V5 +V 0 5
X§U1 IN SA D SB +V 0 0 -V ADG633
.tran 100u
* Note:\nCharge Injection not included\nOff Isolation is -92.5dB at 1MHz\nOnly one channel included\nSwitch shown for a logic 0 input
.lib ADG633.sub
.backanno
.end
