* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG6404.asc
* Generated by LTspice 24.1.9 for Windows.
V7 N001 0 {Vdd}
V9 EN 0 PULSE(0 5 0 10n 10n 10u 20u)
RL D 0 301
C1 N001 0 0.1µ
CL D 0 36p
V1 S1 0 1
V2 S2 0 2
V3 S3 0 3
V4 S4 0 4
V5 A0 0 5
V6 A1 0 5
V8 N002 0 {Vss}
C2 N002 0 0.1µ
X§U1 N001 A0 A1 EN N002 D S1 S2 S3 S4 0 ADG6404
* Notes:\nCharge injection not included\nSwitch parameter modeled at 20V dual supplies
.param Vdd = 20
.param Vss = -20
.tran 100u
.lib ADG6404.sub
.backanno
.end
