* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG711.asc
* Generated by LTspice 24.1.9 for Windows.
V1 vS 0 3
R1 vD 0 301
V2 vIN 0 PULSE(0 3 0 10n 10n 980n 2u)
C1 vD 0 36p
V3 v+ 0 5
X§U1 v+ vS vD vIN 0 ADG711
.tran 10u
* Note:\nSwitch shown for a logic 1 input\nParameter performance modeled at 5V single supply\nOny one channel is modeled
.lib ADG711.sub
.backanno
.end
