* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG719.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 PULSE(0 3 25u 1n 1n 20u)
R1 D 0 301
C1 D 0 36p
V2 S2 0 3
V3 +V 0 5
X§U2 IN 0 D S2 +V 0 ADG719
.tran 75u
.lib ADG719.sub
.backanno
.end
