* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG733.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 1.5
V2 N003 0 0
V3 N004 0 PULSE(0 3 0 20n 20n 10u 20u)
R1 N002 0 301
C1 N002 0 36p
V4 -V 0 -2.5
X§U1 N004 N001 N002 N003 +V 0 0 -V ADG733
V5 +V 0 2.5
.tran 100u
* Note:\nCharge Injection not included\nCrosstalk at -72dB\nOnly One channel included\nSwitch shown for a logic 0 input
.lib ADG733.sub
.backanno
.end
