* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG749.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 PULSE(0 3 25u 1n 1n 20u)
R1 D 0 301
C1 D 0 36p
V2 SA 0 3
V3 +V 0 5
V4 SB 0 0
X§U2 IN SA D SB +V 0 ADG749
.tran 75u
* Note:\nCharge Injection measurement not included in the data sheet \nSwitch shown for a logic 0 input
.lib ADG749.sub
.backanno
.end
