* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG759.asc
* Generated by LTspice 24.1.9 for Windows.
V1 vS1A 0 1
V2 vS2A 0 2
V3 vS3A 0 1
V4 vS4A 0 2
V5 vS1B 0 1
V6 vS2B 0 2
V7 vS3B 0 1
V8 vS4B 0 2
V11 N001 0 2.5
V13 vEN 0 PULSE(0 3 0 10n 10n 10u 20u)
R1 vDA 0 301
C1 N001 0 0.1µ
C3 vDA 0 36p
V9 vA0 0 0
V10 vA1 0 0
R2 vDB 0 301
C4 vDB 0 36p
V12 N002 0 -2.5
C2 N002 0 0.1µ
X§U1 N001 vA0 vA1 vDB N002 vEN vS1A vS2A vS3A vS4A vS1B vS2B vS3B vS4B vDA 0 ADG759
.tran 100u
* Notes:\nPerformance modeled at 2.5V dual supplies\nPin capacitance not included
.lib ADG759.sub
.backanno
.end
