* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG772.asc
* Generated by LTspice 24.1.9 for Windows.
V1 vSA 0 2
V2 vSB 0 0
V3 vIN 0 PULSE(0 3 0 20n 20n 10u 20u)
R1 vD 0 301
C1 vD 0 36p
X§U1 vIN vSA vD vSB +V 0 ADG772
V4 +V 0 3.3
.tran 100u
* Notes:\nSwitch shown for a logic 0 input\nOnly one channel is modeled\nBandwidth is 424 MHz
.lib ADG772.sub
.backanno
.end
