* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG774.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 3
V2 N003 0 0
V3 N004 0 PULSE(0 3 0 20n 20n 10u 20u)
R1 N002 0 49.9
C1 N002 0 36p
V5 +V 0 5
X§U2 N004 N001 N002 N003 +V 0 0 ADG774
.tran 100u
* Note:\nOff Isolation is -75 dB at 10MHz\nOnly one channel included\nCharge Injection not included\nSwitch shown for a logic 0 input
.lib ADG774.sub
.backanno
.end
