* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG781.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N003 0 PULSE(3 0 25u 1n 1n 20u)
R1 N002 0 301
C1 N002 0 36p
V2 N001 0 3
V3 +V 0 5
X§U1 N003 N002 N001 0 +V ADG781
.tran 75u
.lib ADG781.sub
.backanno
.end
