* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG787.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N004 0 PULSE(0 3 25u 1n 1n 20u)
R1 N002 0 49.9
C1 N002 0 36p
V2 N001 0 3
V3 +V 0 5
V4 N003 0 0
X§U1 N004 N001 N002 N003 +V 0 ADG787
.tran 75u
* Note:\nCharge Injection not included\nOnly One channel included\nSwitch shown for a logic 0 input
.lib ADG787.sub
.backanno
.end
