* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG801.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
VS S 0 3
V2 IN 0 PULSE(0 3 0 10n 10n 980n 2u)
R1 D 0 47
C1 D 0 33p
X§U1 IN D S 0 +V ADG801
.tran 10u
.lib ADG801.sub
.backanno
.end
