* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG811.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N003 0 PULSE(0 3 0 10n 10n 500n 1u 10)
V2 N001 0 1.5
V3 Vdd 0 3.3
R1 N002 0 50
X§U1 N003 N002 N001 0 Vdd ADG811
.tran 10u
.lib ADG811.sub
.backanno
.end
